Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
pertussis vaccine,fluid
 
Attending: ___.
 
Chief Complaint:
Endometrial intraepithelial neoplasia, abnormal uterine bleeding
 
Major Surgical or Invasive Procedure:
Total laparoscopic hysterectomy, bilateral salpingo-oophorectomy

 
History of Present Illness:
Mrs. ___ is a ___ y/o G2P2002 who was referred to gyn onc for 
evaluation of endometrial intraepithelial neoplasia. At her 
initial gyn onc consultation on ___ she reported abnormal 
uterine bleeding since ___ with extremely heavy periods that 
caused significant fatigue. She underwent a pelvic ultrasound 
___ which revealed a 18mm endometrial stripe that was 
diffusely thickened and slightly heterogeneous. An endometrial 
biopsy performed on ___ revealed endometrial
intraepithelial neoplasia. She presented to ___ ___ for 
planned surgery.

 
Past Medical History:
PGynHx: 
LMP ___
Periods prior: menarche at ___, q28days lasting ___ days with 2
days of heavy flow
- intermenstrual bleeding? none
- dysmenorrhea? none
STDs denies 
GYN procedures? ___ polypectomy
Denies h/o HRT use 

POBHx: ___
NSVDx2, uncomplicated, largest baby <9lbs

PMHx:
Migraines  
- Denies h/o heart or respiratory disease, HTN, thromboembolic
disease, cancer history
- Denies h/o anesthesia complications 

Health Maintenance: 
- Colonoscopy ___ 
- Mammogram ___
- Bone-Density Scan NA

PSHx: Laparoscopic cholecystectomy ___
 
Social History:
___
Family History:
- Father diagnosed with colon CA at age ___ s/p curative
hemicolectomy, died of leukemia
denies h/o breast, cervical, endometrial, uterine CA
denies h/o bleeding or clotting disorder 
 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous
 
Pertinent Results:
___ 10:12PM URINE Hours-RANDOM
___ 10:12PM URINE UCG-NEG
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy for endometrial intraepithelial neoplasia. 
Please see the operative report for full details.  

Her post-operative course is detailed as follows. 
Postoperatively, her diet was advanced without difficulty and 
her pain was controlled with PO Acetaminophen and Ibuprofen. On 
post-operative day #0, her urine output was adequate so her 
Foley catheter was removed and she voided spontaneously. 

By post-operative day #1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
not to exceed 4 grams in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1 
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endometrial intraepithelial neoplasia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
Laparoscopic instructions:  
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively.
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 8 
weeks.
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

 
Followup Instructions:
___